US07799886B2
There were charged 10 g of fluorene manufactured by Wako Pure Chemical Industries, Ltd. and 10.1 g of potassium tert-butoxide manufactured by Sigma Aldrich Japan Co., Ltd. into a 200 mL round bottom flask, and then 120 mL of dehydrated N,N-dimethylformamide manufactured by Wako Pure Chemical Industries, Ltd. was added to the round bottom flask. While stirring the round bottom flask at 50° C. in an atmosphere of nitrogen, 5.86 mL of allyl chloride manufactured by Kanto Chemical Co., Inc. was added dropwise to the round bottom flask over 2 hours. The round bottom flask was stirred further for 8 hours at 50° C., and then 10.1 g of potassium tert-butoxide manufactured by Sigma Aldrich Japan Co., Ltd. was additionally added to the round bottom flask, and 5.86 mL of allyl chloride manufactured by Kanto Chemical Co., Inc. was additionally added dropwise to the round bottom flask over 2 hours. The round bottom flask was stirred at 50° C. overnight, thereby obtaining a reaction product. The reaction product was added to 900 mL of water to obtain a mixture, and then 300 mL of hexane was added to the mixture, thereby obtaining a mixture containing an organic phase a water phase. The organic phase was extracted with ether three times. The extract was washed with water four times. The washed extract was further washed with dilute hydrochloric acid and with water in this order. The washed extract (ether solution) was dried over anhydrous magnesium sulfate manufactured by Nacalai Tesque, Inc. The dried ether solution was subjected to solvent elimination by evaporation, and the remainder was distilled under a reduced pressure, thereby obtaining 12.8 g (yield: 86.4%) of 9,9-diallylfluorene as yellow oil at 90° C./4 mmHg.

reactant | fluorene | 10 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | potassium tert-butoxide | 10.1 g | CC(C)([O-])C.[K+]
reactant | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
reactant | allyl chloride | 5.86 mL | C(C=C)Cl | C3H5Cl
reactant | potassium tert-butoxide | 10.1 g | CC(C)([O-])C.[K+]
reactant | allyl chloride | 5.86 mL | C(C=C)Cl | C3H5Cl
solvent | water | O | H2O
solvent | hexane | 300 mL | CCCCCC | C6H14
solvent | water | 900 mL | O | H2O
product | 9,9-diallylfluorene | 12.8 g, yield: 86.4% | C(C=C)C1(C2=CC=CC=C2C=2C=CC=CC12)CC=C | C19H18
